US05604253
3-Formyl-5-methoxy-2-methylindole
To 60 mL of DMF at 0° C. was added 10.1 mL of phosphorous oxychloride dropwise. The resulting solution was stirred 10 min at 0° C., then was treated dropwise with a solution of 5-methoxy-2-methylindole (16.2 g, 100 mmol) in 25 mL of DMF. The orange solution was wanned to 40° C. for 45 min, then cooled and quenched with ice. The mixture was then poured into 300 mL of ice water and treated with 100 mL of 10N NaOH. The resulting slurry was heated to reflux for 4 h, then cooled and filtered. The solid was rinsed with water and air-dried to give 18.7 g of the title compound.

reactant | phosphorous oxychloride | 10.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methoxy-2-methylindole | 100 mmol, 16.2 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-Formyl-5-methoxy-2-methylindole | 18.7 g | C(=O)C1=C(NC2=CC=C(C=C12)OC)C | C11H11NO2
